US06255298B1
5-Bromo-3′4′-dichlorosalicylanilide
A slurry of 5-bromosalicylic acid (15 g, 69 mmol) and 3,4-dichloroaniline (19.85 g, 73 mmol) and phosphorous trichloride (4.74 g 34.5 mmol) in 300 ml of chlorobenzene was refluxed for 3 hr. The hot solution was filtered through a glasswool plug and allowed to stand at room temperature for 18 hr. The crystals which deposited were collected by filtration and washed with fresh chlorobenzene and then methylene chloride to give after drying 19 g (76%) of product mp 230-233°. HPLC tr 19.25 min (Vydac HS5215 C18 ODS, 2.1×150 mm, 0.2 mL/min, gradient, A: water−0.1% trifluoroacetic acid B: acetonitrile−0.1% trifluoroacetic acid, 90-10% A during 20 min, UV detection at 214 nm). Recrystallization from chlorobenzene and then acetone gave 11.5 g of crystals, mp 237-2380°. The structure was verified by X-ray crystallography.

reactant | 5-bromosalicylic acid | 69 mmol, 15 g | BrC1=CC=C(C(C(=O)O)=C1)O | C7H5BrO3
reactant | 3,4-dichloroaniline | 73 mmol, 19.85 g | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | phosphorous trichloride | 34.5 mmol, 4.74 g | P(Cl)(Cl)Cl | Cl3P
solvent | chlorobenzene | 300 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 5-Bromo-3′4′-dichlorosalicylanilide | 11.5 g | BrC1=CC=C(C(C(=O)NC2=CC(=C(C=C2)Cl)Cl)=C1)O | C13H8BrCl2NO2
